US08309581B2
a) 4-[2-(4-Chloro-2-cyclopentylmethoxy-phenyl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-2-fluoro-benzonitrile
The title compound was prepared in analogy to Example 19, from 4-[2-(4-chloro-2-hydroxy-phenyl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-2-fluoro-benzonitrile and bromomethyl-cyclopentane (CAS Reg. No. 3814-30-0). Colorless solid (50%). MS (Turbo Spray): m/z=496.3 (M+H).

reactant | 4-[2-(4-chloro-2-hydroxy-phenyl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-2-fluoro-benzonitrile | ClC1=CC(=C(C=C1)C1=NC2=C(N1CC1=CC(=C(C#N)C=C1)F)C=C(C(=C2)F)F)O | C21H11ClF3N3O
reactant | bromomethyl-cyclopentane | BrCC1CCCC1 | C6H11Br
product | 4-[2-(4-Chloro-2-cyclopentylmethoxy-phenyl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-2-fluoro-benzonitrile | ClC1=CC(=C(C=C1)C1=NC2=C(N1CC1=CC(=C(C#N)C=C1)F)C=C(C(=C2)F)F)OCC2CCCC2 | C27H21ClF3N3O
